US09102591B2
To a solution of 3-phenyl-3-(pyridazin-4-yl)propanoic acid (570 mg, 2.5 mmol) in DMF (30 mL) was added Et3N (505 mg, 5.0 mmol), followed by the DPPA (722 mg, 2.6 mmol) in portions at 0° C., the resulting mixture was stirred at room temperature for 1.5 hour. The reaction was diluted with water, extracted with AcOEt (3×40 ml), the combined organic layer was washed by brine, dried over Na2SO4 and concentrated to get the 3-phenyl-3-(pyridazin-4-yl)propanoyl azide (crude 650 mg), which was used for next step directly.

reactant | 3-phenyl-3-(pyridazin-4-yl)propanoic acid | 2.5 mmol, 570 mg | C1(=CC=CC=C1)C(CC(=O)O)C1=CN=NC=C1 | C13H12N2O2
reactant | Et3N | 5.0 mmol, 505 mg | CCN(CC)CC | C6H15N
reactant | DPPA | 2.6 mmol, 722 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-phenyl-3-(pyridazin-4-yl)propanoyl azide | C1(=CC=CC=C1)C(CC(=O)N=[N+]=[N-])C1=CN=NC=C1 | C13H11N5O
